US09192919B2
Two representative iron catalysts were obtained as follows: 2,4-dimethyl-1,3-pentadienide iron pentane solution was added to dry silica in a 50 ml flask. The mixture was stirred for 3 hours at room temperature. The pentane solvent was evaporated and the greenish solid was obtained. Catalyst A, “Reduced” Fe/SiO2, as shown in Table 2, was obtained when the 2,4-dimethyl-1,3-pentadienide iron on silica catalyst was treated with H2 without being exposed to air at temperatures from 350-500° C. Catalyst B, the “Oxidized” Fe/SiO2, as shown in Table 2, was obtained when the 2,4-dimethyl-1,3-pentadienide iron on silica was exposed to air at room temperature directly after it's synthesized.

reactant | 2,4-dimethyl-1,3-pentadienide iron pentane | CCCCC.[Fe+2].CC(=[CH-])C=C(C)C.CC(=[CH-])C=C(C)C
catalyst | iron | [Fe] | Fe
product | 2,4-dimethyl-1,3-pentadienide iron | [Fe+2].CC(=[CH-])C=C(C)C.CC(=[CH-])C=C(C)C | InChI=1S/2C7H11.Fe/c2*1-6(2)5-7(3)4;/h2*1,5H,2-4H3;/q2*-1;+2
